US08071773B2
j) 2-Benzyl-2,7-diaza-spiro[4.5]decan-6-one
A solution of 1 mmol of methanesulphonic acid 3-(2-methanesulphonyloxy-ethyl)-2-oxo-piperidin-3-ylmethyl ester and 3 mmol of benzylamine in 5 ml of dioxane is heated at 60° C. for 30 hours. The reaction mixture is diluted with tert-butyl methyl ether and washed with brine. The organic phase is dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | methanesulphonic acid 3-(2-methanesulphonyloxy-ethyl)-2-oxo-piperidin-3-ylmethyl ester | 1 mmol | CS(=O)(=O)OCCC1(C(NCCC1)=O)COS(=O)(=O)C | C10H19NO7S2
reactant | benzylamine | 3 mmol | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 2-Benzyl-2,7-diaza-spiro[4.5]decan-6-one | C(C1=CC=CC=C1)N1CC2(CC1)C(NCCC2)=O | C15H20N2O
